US04853381
(E)-4-[3-Methoxy-4-(phenylmethoxy)phenyl]-3-buten-1-ol
n-Butyllithium (1.55M in hexane, 194 ml) was added dropwise to a stirred suspension of (3-hydroxypropyl)triphenylphosphonium bromide (60.3 g) in dry THF (375 ml) cooled to 0° under nitrogen. The resulting blood-red solution was stirred at 0° for 15 min and then a solution of 3-methoxy-4-(phenylmethoxy)benzaldehyde (36.3 g) in dry THF (50 ml) was added dropwise over 15 min. The mixture was stirred at 0° for 30 min, allowed to warm up to room temperature, stirred for a further 2 h and then the reaction quenched by the addition of 2N hydrochloric acid (100 ml). The THF was removed in vacuo at 40°, the aqueous residue extracted with ethyl acetate (350 ml) and the organic layer washed with 2N HCl (200 ml). The aqueous phase was extracted with further ethyl acetate (150 ml), the organic layers combined, washed with 8% sodium bicarbonate solution (200 ml) and dried. Concentration afforded a product which was purified by FCC eluting with System B (1:2) yielding the title compound as a cream powder (14.5 g) m.p. 57°-61°

reactant | n-Butyllithium | 1.55M, 194 ml | C(CCC)[Li]
reactant | (3-hydroxypropyl)triphenylphosphonium bromide | 60.3 g | [Br-].OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-methoxy-4-(phenylmethoxy)benzaldehyde | 36.3 g | COC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C15H14O3
solvent | THF | 375 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (E)-4-[3-Methoxy-4-(phenylmethoxy)phenyl]-3-buten-1-ol | 14.5 g | COC=1C=C(C=CC1OCC1=CC=CC=C1)/C=C/CCO | C18H20O3
